US04521421
The 4-hydroxy product thus obtained was refluxed with 4 ml. of phosphorous oxychloride. The reaction mixture, containing trans-(±)-2-amino-4-chloro-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]-quinoline formed in the above reaction, was poured onto ice and the resulting aqueous mixture made basic. The basic mixture was filtered and the insoluble material dissolved in 0.1N aqueous hydrochloric acid. The hydrochloride salt thus prepared was recrystallized from ethanol to yield trans-(±)-2-amino-4-chloro-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline hydrochloride having the following physical characteristics. Mass spectrum, molecular ion at 280, smaller peak at 282.

reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | trans-(±)-2-amino-4-chloro-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]-quinoline | NC=1N=C(C2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1)Cl | C14H21ClN4
product | trans-(±)-2-amino-4-chloro-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline hydrochloride | Cl.NC=1N=C(C2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1)Cl | InChI=1S/C14H21ClN4.ClH/c1-2-5-19-6-3-4-9-7-11-10(8-12(9)19)13(15)18-14(16)17-11;/h9,12H,2-8H2,1H3,(H2,16,17,18);1H/t9-,12-;/m0./s1
